US05021413
1--(5,6-dichloroindan-1-carbonyl)-4-methyl-2-(pyrrolidin-1ylmethyl)piperazine dihydrochloride
The procedure described in Example 24 was repeated, but using 1.67 g of 1-methyl-3-(pyrrolidin-1-ylmethyl)piperazine trihydrochloride, 3.6 ml of triethylamine and 1.5 g of 5,6-dichloroindan-1-carbonyl chloride, to afford 1.54 g of the title compound, melting at 245 °-250° C.

reactant | 1-methyl-3-(pyrrolidin-1-ylmethyl)piperazine trihydrochloride | 1.67 g | Cl.Cl.Cl.CN1CC(NCC1)CN1CCCC1
reactant | 5,6-dichloroindan-1-carbonyl chloride | 1.5 g | ClC=1C=C2CCC(C2=CC1Cl)C(=O)Cl | C10H7Cl3O
solvent | triethylamine | 3.6 ml | C(C)N(CC)CC | C6H15N
product | 1--(5,6-dichloroindan-1-carbonyl)-4-methyl-2-(pyrrolidin-1ylmethyl)piperazine dihydrochloride | 1.54 g | Cl.Cl.ClC=1C=C2CCC(C2=CC1Cl)C(=O)N1C(CN(CC1)C)CN1CCCC1 | InChI=1S/C20H27Cl2N3O.2ClH/c1-23-8-9-25(15(12-23)13-24-6-2-3-7-24)20(26)16-5-4-14-10-18(21)19(22)11-17(14)16;;/h10-11,15-16H,2-9,12-13H2,1H3;2*1H
